US07501426B2
2-methyl-8-cyano-quinoline
Prepared by reacting 2-methyl-8-bromo-quinoline with copper(I)cyanide in N-methylpyrrolidinone under a protective gas atmosphere at 180° C.

reactant | 2-methyl-8-bromo-quinoline | CC1=NC2=C(C=CC=C2C=C1)Br | C10H8BrN
reactant | copper(I)cyanide | [Cu]C#N
solvent | N-methylpyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 2-methyl-8-cyano-quinoline | CC1=NC2=C(C=CC=C2C=C1)C#N | C11H8N2
